US08377896B2
Amikacin sulfate 1.0 grams (Commercially available from a number of chemical companies: O.M. Chemical Co., Ltd., Shanghai, China; Zhejiang Winsun Imp. & Exp. Co., Ltd, Zhejiang, China; Ningbo DHY Pharmaceutical Co., Zhejiang, China; and Shanghai Xudong Haipu Pharmaceutical Co., Ltd, Shanghai, China) was treated with 4 grams of Amberlite ion exchange resin (OH— form, Aldrich, Milwaukee, Wis.) in 10 mL of water for 1 hour. The resultant solution was filtered and lyophilized to give Amikacin Free Base. The Amikacin free base (5.0 g, 8.5 mmoles) was dissolved in a mixture of 1,4-dioxane (165 mL) and H2O (235 mL). To this solution was added tert-butyloxycarbonyloxy-5-norbornene-2,3-dicarboxamide (1.3 g, 7.8 mmoles) dissolved in a mixture of CH2Cl2 (10 mL) and 1,4-dioxane (5 mL), over 50 min at room temperature. The reaction was stirred at room temp for 3 hours, and then evaporated under reduced pressure. The resultant solid was subjected to silica gel chromatography (4:4:2, MeOH, CH2Cl2, NH4OH, Rf=0.25) and then lyophilized to give the title compound, 1.6 g (30%) as a white solid.

reactant | Amikacin sulfate | 1.0 grams | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N.OS(=O)(=O)O
solvent | water | 10 mL | O | H2O
product | Amikacin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N | C22H43N5O13
